US06844440B2
Patent application WO 97/22584 describes the preparation of Donepezil by reaction of pyridine-4-carboxyaldehyde with malonic acid to give 3-(pyridin-4-yl)-2-propenoic acid, followed by hydrogenation of the double bond to give 3-(piperidin-4-yl)-2-propionic acid. Reaction of this intermediate with methyl chloroformate afforded 3-[N-(methyloxycarbonyl) piperidin-4-yl]propionic acid. This was followed by reaction with oxalyl chloride to give methyl 4-(2-chlorocarbonylethyl)piperidin-1-carboxylate. Reaction with 1,2-dimethoxybenzene in the presence of aluminum chloride afforded methyl 4-[3-(3,4-dimethoxyphenyl)-3-oxopropyl]piperidin-1-carboxylate. Reaction with tetramethyldiaminomethane afforded 4-[2-(3,4-dimethoxybenzoyl)allyl] piperidin-1-carboxylate. Reaction with sulfuric acid afforded methyl 4-(5,6-dimethoxy-1-oxoindan-2-yl)methylpiperidin-1-carboxylate. This was followed by treatment with base to give 5,6-dimethoxy-2-(piperidin-4-ylmethyl) indan-1-one, then reaction with benzyl bromide afforded Donepezil (Scheme 3).

reactant | Donepezil | COC=1C=C2C(=CC1OC)C(=O)C(C2)CC3CCN(CC3)CC=4C=CC=CC4 | C24H29NO3
reactant | malonic acid | C(CC(=O)O)(=O)O | C3H4O4
product | 3-(pyridin-4-yl)-2-propenoic acid | N1=CC=C(C=C1)C=CC(=O)O | C8H7NO2
